*
* NGSPICE simulation script
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 1 0 DC 5.17979967502

R1 1 2 1039.30068064 
R2 2 3 2010.9087471 
R3 2 4 3041.24242148 
R4 0 4 4183.83562625 
R5 4 5 3095.83437009 
R6 0 6 2021.17084711 
R7 8 7 1022.26630661
Id 7 5 DC 0.00100439545365 

*Ib renamed to Gb 
Gb 5 3 2 4 0.00708750963899

*Ic renamed to Hc, Vi is an imaginary voltage source to measure controlling current
Vi 6 8 DC 0
Hc 4 7 Vi 8185.75062147


.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
