*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

Vs begin1 0 SIN(0.000000000000 230.000000000000 50.0 0.0 0.0 -90)
R2 begin1 im1 1
Dfw1 im1 0 Default

.model Default D

.op

.end

.control

set numdgt = 12

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
ac 1e-5 20e-3

meas ac r_d AVG v(im1)/@Dfw1[i]


.endc

